US07361677B2
4-{[3-(4-Hydroxy-phenylsulfanyl)-propyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile (CAB0182, STX596)
A mixture of 4-[(2-bromo-propyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile (CAB02180, 146 mg, 0.50 mmol), 4-hydroxy-thiophenol (240 mg, 1.0 mmol) and potassium carbonate (276 mg, 2.0 mmol) in DMF (10 mL) was stirred for 48 hours at room temperature. The mixture was transferred into a separation funnel and ethyl acetate (50 mL) and water (50 mL) were added. The organic layer was separated, washed with brine (30 mL), dried over sodium sulphate and concentrated under reduced pressure. The residue was purified by column chromatography (eluent: ethyl acetate, Rf: 0.31) to give an yellow oil, which was crystallised from methanol. Yield: 211 mg (60%). 1H-NMR (400 MHz, d6-DMSO) δ=1.64 (tt, J=7.0, 7.0 Hz, 2H), 2.89 (t, J=7.0 Hz, 2H), 3.92 (t, J=7.0 Hz, 2H), 6.57 (d, J=9.0 Hz, 2H), 6.72 (d, J=9.0 Hz, 2H), 7.20 (d, J=9.0 Hz, 2H), 7.71 (d, J=9.0 Hz, 2H), 8.96 (s,2H), 9.59 (s, 1H, —OH). LRMS (FAB+): 352.1 (100, [M+H]+).

reactant | 4-[(2-bromo-propyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile | 0.50 mmol, 146 mg | BrC(CN(C1=CC=C(C#N)C=C1)N1C=NN=C1)C | C12H12BrN5
reactant | 4-hydroxy-thiophenol | 1.0 mmol, 240 mg | OC1=CC=C(C=C1)S | C6H6OS
reactant | potassium carbonate | 2.0 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 4-{[3-(4-Hydroxy-phenylsulfanyl)-propyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile | OC1=CC=C(C=C1)SCCCN(C1=CC=C(C#N)C=C1)N1C=NN=C1 | C18H17N5OS
